US08119627B2
Piperidine-1,4-dicarboxylic acid mono-tert-butyl ester HVB01031 C11H19NO4 MW 229.28
Di-t-butyl dicarbonate (3.4 g, 15.6 mmol) and sodium hydroxide (6.2 g, 154.5 mmol) were added to a solution of isonipecotic acid (2 g, 15.5 mmol) in 1,4-dioxane (50 ml) and water (50 ml). Stirred at room temperature for 21 h. Concentrated in-vacuo to approximately 15 ml, diluted with ethyl acetate and acidified to pH 3-4 using hydrochloric acid (1M). Extracted with ethyl acetate and washed with water. Organic layers dried over anhydrous magnesium sulphate and evaporated to dryness, to afford a white solid, 2.16 g, 61%. m.p. 151-153° C., Rf: 0.72 (10% MeOH in DCM), 1H NMR (270 MHz, CDCl3) δ 1.4 (9H, s, CH3), 1.64 (2H, m, CH2), 1.89 (2H, dd, J=3.0, 13.4 Hz, CH2), 2.5 (1H, m, CH), 2.83 (2H, t, J=11.1 Hz, N—CH2), 4.03 (2H, d, J=12.0 Hz, N—CH2).

reactant | Di-t-butyl dicarbonate | 15.6 mmol, 3.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 154.5 mmol, 6.2 g | [OH-].[Na+]
reactant | isonipecotic acid | 15.5 mmol, 2 g | N1CCC(C(=O)O)CC1 | C6H11NO2
reactant | MeOH | CO | CH4O
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | 50 ml | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Piperidine-1,4-dicarboxylic acid mono-tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
